US08461179B1
A solution of 1-(2-fluoro-5-nitrobenzyl)-4-methylpiperazine (0.577 g, 2.278 mmol) in EtOH (7 mL) was treated with satd. NH4Cl (4.75 mL, 22.78 mmol) followed by iron (powder) (1.272 g, 22.78 mmol) and the mixture heated at 55° C. overnight. The mixture was cooled to RT and gravity-filtered through filter paper, rinsing well with MeOH and DCM. The filtrate was concentrated to dryness. The residue was treated with EtOAc and water, then concentrated to dryness again. The resulting material was treated with THF (20 mL), sonicated for several hours and the solvent decanted from the solids. The solids were treated with additional THF (20 mL), sonicated again and the solvent decanted. The solids were treated with THF (20 mL) for a third time, stirred vigorously overnight, then the liquid was decanted. The combined decanted liquids were concentrated to dryness, treated with DCM, filtered to remove solids and concentrated to dryness to afford very hydroscopic 4-fluoro-3-((4-methylpiperazin-1-yl)methyl)aniline (382 mg, 75% yield). 1H NMR (400 MHz, DMSO-d6): δ 6.81 (m, 1H), 6.49 (m, 2H), 4.99 (s, 2H), 3.44 (s, 2H), 3.32 (s, 8H), 2.69 (s, 3H); MS (ESI) m/z: 224.2 [M+H]+.

reactant | 1-(2-fluoro-5-nitrobenzyl)-4-methylpiperazine | 2.278 mmol, 0.577 g | FC1=C(CN2CCN(CC2)C)C=C(C=C1)[N+](=O)[O-] | C12H16FN3O2
reactant | NH4Cl | 22.78 mmol, 4.75 mL | [NH4+].[Cl-]
solvent | EtOH | 7 mL | CCO | C2H6O
catalyst | iron | 22.78 mmol, 1.272 g | [Fe] | Fe
product | 4-fluoro-3-((4-methylpiperazin-1-yl)methyl)aniline | 382 mg, 75% yield | FC1=C(C=C(N)C=C1)CN1CCN(CC1)C | C12H18FN3
